US09403847B2
Step B: Ethyl 3-bromo-5-methylimidazo[1,2-a]pyridine-2-carboxylate
A solution of ethyl 5-methylimidazo[1,2-a]pyridine-2-carboxylate (5.0 g, 25 mmol) in acetonitrile (94 mL) was treated with N-bromosuccinimide (4.8 g, 27 mmol) in acetonitrile (47 mL) dropwise and stirred at 20° C. for 30 min. The reaction mixture was concentrated, diluted with dichloromethane (200 mL), and washed with saturated sodium bicarbonate (150 mL) and brine (50 mL). The organic layer was dried with sodium sulfate, filtered, and concentrated to a crude solid. Purification by flash column chromatography gave the desired product (4.0 g, 58%). LCMS for C11H12BrN2O2 (M+H)+: m/z=282.9, 284.9.

reactant | ethyl 5-methylimidazo[1,2-a]pyridine-2-carboxylate | 25 mmol, 5.0 g | CC1=CC=CC=2N1C=C(N2)C(=O)OCC | C11H12N2O2
reactant | N-bromosuccinimide | 27 mmol, 4.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 94 mL | C(C)#N | C2H3N
solvent | acetonitrile | 47 mL | C(C)#N | C2H3N
product | Ethyl 3-bromo-5-methylimidazo[1,2-a]pyridine-2-carboxylate | 4.0 g, 58% | BrC1=C(N=C2N1C(=CC=C2)C)C(=O)OCC | C11H11BrN2O2
